US04780452
5,7-Dichloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine
5,7-Dichloro-3H-imidazo[4,5-b]pyridine (0.0053 mole, 1.0 g) and uridine (0.00795 mole, 1.94 g), were suspended in 20 ml potassium phosphate, 0.01M at pH 7 with 0.04% potassium azide. The catalysts, purine nucleoside phosphorylase (1900 units) and uridine phosphorylase (1300 units) were added and the suspension mixed for 10 days at 35° C. The reaction was filtered and the cake dissolved in boiling methanol. After filtering, the volume was doubled with water then reduced to one quarter the volume in vacuo at 40° C. The resulting precipitate was collected by filtration and contained 1.3 g (0.0037 mole) of analytically pure 5,7-Dichloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine. M.p. 156°-158° C.; UV λmax nm (ε×10-3) at pH 1, 10% EtOH, 187(8.2), 256(4.2); at pH 13, 10% EtOH, 289(8.7 ), 260(5.0); [α]D20 =-15.6, (C=0.5, DMF); NMR (MC2SO-d6) δ 8.85 (s, 1H, H2), 7.68 (s, 1H, H6), 5.99 (d, 1H, J=5.49, H1'), 5.0 (m, 1H, H2'), 4.5 (m, 1H, H3'), 4.0 (m, 1H, H4'), 3.5 (b, 1H, H5')

reactant | 5,7-Dichloro-3H-imidazo[4,5-b]pyridine | 0.0053 mole, 1.0 g | ClC1=CC(=C2C(=N1)NC=N2)Cl | C6H3Cl2N3
reactant | uridine | 0.00795 mole, 1.94 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O6
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
solvent | potassium phosphate | 20 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 5,7-Dichloro-3-β-D-ribofuranosyl-3H-imidazo[4,5-b]pyridine | ClC1=CC(=C2C(=N1)N(C=N2)[C@H]2[C@H](O)[C@H](O)[C@H](O2)CO)Cl | C11H11Cl2N3O4
